### ISSUE TITLE
whnf giving errors; terms and types not simplifying

### ISSUE THREAD

**Issue by siddhartha-gadgil** [leanprover/lean4#693]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

On updating the nightly build to 2021-09-20 or later, I encountered the following (presumably related) error, with the third encountered in an attempt to debug.

1. The type of terms computed is not being refined.
2. Booleans that evaluate to `false` (and reduce to `false`) are not being proved false by `rfl`
3. When `whnf` is used on the expression of an already defined term we get an error. 

My guess is that due to the third terms are not being simplified and leading to the first two errors. The error in `whnf` happens with the simplest code and so this is reproduced in the self-contained code below.

### Steps to Reproduce

1. Create a lean project using the nightly build 2021-09-20
2. Load the code below in an interpreter. The last line gives an error.

Note that relacing `cls` by `clauses` in a line (as commented in the code) with `let cls := clauses` in context causes this error to go away (as this is a simplified example).

```
import Lean.Meta
open Nat

structure ProvedSkip(n m: Nat) where
  result : Nat
  lt : m < n → result = m
  ge : n ≤ m → result = m + 1

def provedSkip (n m : Nat) : ProvedSkip n m := 
  if c : m < n then
    ⟨m, fun _ => rfl, fun hyp => False.elim (Nat.lt_irrefl m (Nat.lt_of_lt_of_le c hyp))⟩
  else
    ⟨m + 1, fun hyp => absurd hyp c, fun _ => rfl⟩

def skip: Nat → Nat → Nat :=
  fun n m => (provedSkip n m).result

theorem skip_below_eq(n m : Nat) : m < n → (skip n m = m) :=
  fun hyp => (provedSkip n m).lt hyp 

theorem skip_above_eq(n m : Nat) : n ≤ m → (skip n m = m + 1) :=
  fun hyp => (provedSkip n m).ge hyp

theorem skip_not_below_eq(n m : Nat) : Not (m < n) → (skip n m = m + 1) :=
  fun hyp =>
    let lem : n ≤ m :=
      match Nat.lt_or_ge m n with
      | Or.inl lt => absurd lt hyp
      | Or.inr ge => ge 
    skip_above_eq n m lem

theorem skip_lt: (k j: Nat) →  skip k j < j + 2 :=
    fun k j =>
      if c : j < k then
        let eqn := skip_below_eq k j c 
        by 
          rw [eqn]
          apply Nat.le_step
          apply Nat.le_refl
          done
      else 
        let eqn := skip_not_below_eq k j c
        by 
          rw [eqn]
          apply Nat.le_refl
          done 

theorem skip_le_succ {n k j : Nat} : j < n → skip k j < n + 1 := 
   by
    intro hyp 
    apply Nat.le_trans (skip_lt k j)
    apply Nat.succ_lt_succ
    exact hyp

def FinSeq (n: Nat) (α : Type) : Type := (k : Nat) → k < n → α

theorem witness_independent{α : Type}{n : Nat}(seq: FinSeq n α) :
    (i : Nat)→ (j : Nat) → (iw : i < n) → (jw : j < n) → 
        (i = j) → seq i iw = seq j jw :=
        fun i j iw jw eqn =>
          match j, eqn, jw with 
          | .(i), rfl, ijw =>
               rfl
namespace FinSeq
def init {α : Type}{n: Nat}(seq : FinSeq (n + 1) α): FinSeq n α := 
  fun k w =>
      seq k (Nat.le_step w)

def last{α : Type}{n: Nat}(seq : FinSeq (n + 1) α): α :=
  seq n (Nat.le_refl _)

def delete{α : Type}{n: Nat}(k : Nat) (kw : k < (n + 1)) (seq : FinSeq (n + 1) α): FinSeq n α := 
  fun j w =>
    seq (skip k j) (skip_le_succ w)

end FinSeq

inductive Vector (α : Type) : Nat → Type where 
  | nil : Vector α zero
  | cons{n: Nat}(head: α) (tail: Vector  α n) : Vector α  (n + 1) 

infixr:66 "+:" => Vector.cons

open Vector

def Vector.coords {α : Type}{n : Nat}(v: Vector α n) : FinSeq n α :=
  fun j jw =>
  match n, v, j, jw with
  | .(zero), nil, k, lt => nomatch lt
  | m + 1, cons head tail, zero, lt => head
  | m + 1, cons head tail, j + 1, w =>  tail.coords j (Nat.le_of_succ_le_succ w)

def seqVecAux {α: Type}{n m l: Nat}: (s : n + m = l) →   
    (seq1 : FinSeq n α) → (accum : Vector α m) →  
       Vector α l:= 
    match n with
    | zero => fun s => fun _ => fun seq2 =>
      by
        have ss : l = m := by 
          rw [← s]
          apply Nat.zero_add
          done
        have sf : Vector α l = Vector α m := by
          rw [ss]
        exact Eq.mpr sf seq2
        done
    | k + 1 => fun s seq1 seq2 => 
      let ss : k + (m + 1)  = l := 
        by
          rw [← s]
          rw [(Nat.add_comm m 1)]
          rw [(Nat.add_assoc k 1 m)]
          done
      seqVecAux ss (seq1.init) ((seq1.last) +: seq2)

def FinSeq.vec {α : Type}{n: Nat} : FinSeq n α  →  Vector α n := 
    fun seq => seqVecAux (Nat.add_zero n) seq Vector.nil
  
def Clause(n : Nat) : Type := Vector (Option Bool) n

def Valuation(n: Nat) : Type := Vector Bool n

inductive SatAnswer{dom n: Nat}(clauses : Vector (Clause n) dom) where
  | unsat : SatAnswer clauses
  | sat :  SatAnswer clauses 

structure SimpleRestrictionClauses{dom n: Nat}
    (clauses: Vector (Clause (n + 1)) dom) where
  codom : Nat
  restClauses : Vector  (Clause n) codom

def prependRes{dom n: Nat}(branch: Bool)(focus: Nat)(focusLt : focus < n + 1)
    (clauses: Vector (Clause (n + 1)) dom): 
        (rd : SimpleRestrictionClauses clauses) → 
           (head : Clause (n + 1)) → 
        SimpleRestrictionClauses (head +: clauses) := 
        fun rd  head => 
          if c : head.coords focus focusLt = some branch then
            ⟨rd.codom, rd.restClauses⟩
          else
            ⟨rd.codom + 1, (FinSeq.vec (FinSeq.delete focus focusLt head.coords)) +: rd.restClauses⟩

def restClauses{dom n: Nat}(branch: Bool)(focus: Nat)(focusLt : focus < n + 1)  
        (clauses: Vector (Clause (n + 1)) dom) :
         SimpleRestrictionClauses clauses :=
            match dom, clauses with
            | 0, _ =>  ⟨0, Vector.nil⟩
            | m + 1, Vector.cons head clauses =>
                prependRes branch focus focusLt clauses 
                            (restClauses branch focus focusLt clauses) head           

def answerSAT{n dom : Nat}: (clauses : Vector (Clause n) dom) →  SatAnswer clauses :=
      match n with
      | zero => 
           match dom with
            | zero => fun cls => SatAnswer.sat 
            | l + 1 => fun _ =>  SatAnswer.unsat     
      | m + 1 =>
        fun clauses =>
        let cls := clauses 
        let bd := zero_lt_succ m
        let rd  := 
            restClauses false zero bd clauses
        let subCls := rd.restClauses
        let subSol: SatAnswer subCls := answerSAT subCls
        match subSol with
        | SatAnswer.sat   => 
          SatAnswer.sat 
        | SatAnswer.unsat  => 
            let rd := restClauses true zero bd cls -- replacing cls by clauses fixes this
            let subCls := rd.restClauses
            let subSol : SatAnswer subCls := answerSAT subCls
            match subSol with
            | SatAnswer.sat   => 
                SatAnswer.sat 
            | SatAnswer.unsat   => 
                SatAnswer.unsat

open Lean.Meta
open Lean.Elab.Term

syntax (name:= nrmlform)"whnf!" term : term
@[termElab nrmlform] def normalformImpl : TermElab :=
  fun stx expectedType? =>
  match stx with
  | `(whnf! $s) => 
      do
        let t ← elabTerm s none 
        let e ← whnf t
        return e
  | _ => Lean.Elab.throwIllFormedSyntax


def cls1 : Clause 2 := -- ¬P
  (some false) +: (none) +: Vector.nil

def cls2 : Clause 2 := (some true) +: none +: Vector.nil  -- P

def egStatement := cls1 +: cls2 +: Vector.nil

def egAnswer : SatAnswer egStatement := answerSAT egStatement

def egAnswerNorm : SatAnswer egStatement := whnf! egAnswer
```

**Expected behavior:** The last line gives the term `egAnswer` simplified.

**Actual behavior:** We get an error (presumably the order of arguments is mixed up)
```
application type mismatch
  SimpleRestrictionClauses (_ : 0 < succ 1)
argument has type
  0 < succ 1
but function has type
  Vector (Clause (1 + 1)) (zero + 1 + 1) → Type
```

**Reproduces how often:** This is deterministic (and the simplest of many such crashes)

### Versions
* command line lean: Lean (version 4.0.0-m2, commit 26dda3f63d88, Release)
* leanpkg: lean_version = "leanprover/lean4:nightly-2021-09-20"
* OS: Ubuntu 20.04

### Additional Information

Any additional information, configuration or data that might be necessary to reproduce the issue.

**Comment by leodemoura** [comment]
Fixed by d0462153a0fba71e66a92c926ae8846955829664
